US05726187
N-Carboxy-[1-butyl-4-piperidinylmethyl]-carbazole
N-Carboxy-[1-butylpiperidin-4-ylmethyl]-1,2,3,4,4a,9a-hexahydrocarbazole (0.530 g, 1.32 mmol) was dissolved in chloroform (25 ml) and treated with 2,3-dichloro-5,6-dicyano-1, 4-benzoquinone (0.329 g, 1.58 mmol) with stirring. The mixture was heated to reflux for 12 hours, cooled, and more 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.329 g 1.58 mmol) added with stirring. The mixture was heated to reflux for 12 hours, cooled and evaporated under reduced pressure. The residue was purified by Silica-gel chromatography, eluting with 2%MeOH/CHCl3 to give the title compounds as 3:1 mixture. The mixture was separated by preparative HPLC using a Waters Micro Bondapak C18 (300 mm×7.8 mm) column and eluting with 75:25 MeCN: 0.1M Ammonium Acetate (pH 5.0).

reactant | N-Carboxy-[1-butylpiperidin-4-ylmethyl]-1,2,3,4,4a,9a-hexahydrocarbazole | 1.32 mmol, 0.530 g | C(=O)(O)N1C2=CC=CC=C2C2CCCC(C12)CC1CCN(CC1)CCCC | C23H34N2O2
reactant | 2,3-dichloro-5,6-dicyano-1, 4-benzoquinone | 1.58 mmol, 0.329 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.58 mmol, 0.329 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Carboxy-[1-butyl-4-piperidinylmethyl]-carbazole | C(=O)(O)N1C2=CC=CC=C2C=2C=CC=C(C12)CC1CCN(CC1)CCCC | C23H28N2O2
